US04990531
1[4-(methylsulphinyl)benzenesulphonyl]-2-pyrrolidinone
A solution containing 2.41 g of m-chloroperbenzoic acid in 48 cm3 of methylene chloride is added to 3.4 g of 1-(4-methylthiobenzene-sulphonyl)pyrrolidin-2-one prepared as in Example 4 in solution in 34 cm3 of methylene chloride, at a temperature not exceeding 25° C. After agitation at ambient temperature for 30 minutes, the reaction medium is then treated with a 10% aqueous solution of sodium sulphite. The organic phase is separated off, washed with a 5% aqueous solution of sodium bicarbonate, then with water. After drying, the solvent is evaporated off under reduced pressure, and the residue is crystallized from 95% ethanol. 1.70 g of expected product is obtained.

reactant | m-chloroperbenzoic acid | 2.41 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-(4-methylthiobenzene-sulphonyl)pyrrolidin-2-one | 3.4 g | CSC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)=O | C11H13NO3S2
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 48 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 34 cm3 | C(Cl)Cl | CH2Cl2
product | 1[4-(methylsulphinyl)benzenesulphonyl]-2-pyrrolidinone | 1.70 g | CS(=O)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)=O | C11H13NO4S2
